data/mechanism_extracts/science.adg2866/science.adg2866.json
{"doi": "science.adg2866", "journal": "science.adg2866", "is_review": false, "rxn_class_summary": "Enantioselective electrochemical cobalt-catalyzed aryl C-H activation enabling C-C, C-N, and C-O bond-forming annulations of carboxylic amides and phosphinamides coupled to the hydrogen evolution reaction at the cathode.", "mechanism_family": ["electrocatalysis_inner_sphere", "mediator_anodic"], "electrochemical_role": "Anodic oxidation of the cyclometalated Co(III) species to higher-valent Co(IV)/Co(III) intermediates that drive C-N/C-O/C-C bond formation via oxidation-induced reductive elimination; protons reduced at the Pt cathode to give H2 (HER) as the terminal sink, with cobalt acting as the inner-sphere electrocatalyst.", "key_intermediates": [{"name": "Cyclometalated Co(III) complex C1 (CPA1-ligated, C-H activated benzamide)", "smiles": null, "role": "reactive"}, {"name": "Co(III)-CPA1 chiral cobaltacycle (point of enantioinduction via inner-sphere coordination of chiral phosphoric acid)", "smiles": null, "role": "reactive"}, {"name": "Higher-valent Co(IV) intermediate generated by anodic oxidation", "smiles": null, "role": "transient"}, {"name": "Co(II) precatalyst from Co(OAc)2·4H2O", "smiles": "[Co+2].CC(=O)[O-].CC(=O)[O-]", "role": "resting_state"}, {"name": "Migratory-insertion alkyl-Co intermediate after alkene insertion", "smiles": null, "role": "transient"}], "electron_flow": "Co(II) is oxidized in situ and undergoes CMD-type C-H metalation of the benzamide to give a chiral cyclometalated Co(III) species; anodic single-electron oxidation generates a Co(IV) (or Co(III/IV/II) manifold) intermediate that, after alkene/alkyne coordination and migratory insertion, undergoes oxidation-induced reductive elimination to forge the C-C/C-N/C-O bond, while protons are reduced at the Pt cathode to H2.", "rate_determining_step": "Electron transfer (anodic oxidation of the cyclometalated Co(III) intermediate); C-H cleavage and migratory insertion are not rate-limiting (kH/kD ≈ 1.0; no order in maleimide).", "probe_reagents": [{"name": "Deuterated benzamide [D]5-1", "smiles": null, "purpose": "KIE", "observation": "kH/kD ≈ 1.0 in parallel experiments, indicating C-H cleavage is not rate-determining."}, {"name": "Stoichiometric cyclometalated Co(III) complex C1", "smiles": null, "purpose": "intermediate_trap", "observation": "Isolated and fully characterized; required electricity for efficient and selective product formation, supporting its role as on-cycle intermediate."}, {"name": "Variation of maleimide concentration (kinetic order)", "smiles": null, "purpose": "other", "observation": "No marked correlation of initial rate with maleimide concentration; migratory insertion deemed fast and not rate-limiting."}, {"name": "Variation of current (product formation rate)", "smiles": null, "purpose": "redox_probe", "observation": "Direct correlation between current and product formation rate, identifying electron transfer as rate-determining."}, {"name": "Nonlinear effect study (varying ee of CPA1)", "smiles": null, "purpose": "other", "observation": "Linear relationship between ee of CPA1 and ee of product 3, ruling out self-association or multiligand catalysts."}, {"name": "No-current control", "smiles": null, "purpose": "other", "observation": "No product formation in absence of electricity, confirming electrochemical turnover."}, {"name": "Ag2CO3 as chemical oxidant control", "smiles": "[Ag+].[Ag+].[O-]C(=O)[O-]", "purpose": "other", "observation": "Very low enantioselectivity obtained, highlighting the unique role of anodic oxidation for enantiocontrol."}], "evidence_types_used": ["KIE", "stoichiometric_intermediate", "isolation_of_intermediate", "UV_vis", "kinetic_order", "on/off_light_or_current", "other"], "evidence_strength": "strong", "notes": "Authors invoke a Co(III/IV/II) catalytic manifold supported by HRMS and UV-vis spectroelectrochemistry. Inner-sphere coordination of CPA1 at cobalt is proposed as the origin of enantioinduction, rather than an outer-sphere chiral counteranion mechanism. HER occurs at the Pt (or stainless steel) cathode as the sole stoichiometric byproduct; pivalic acid additive prevents cathode passivation."}
